US06759428B2
6-Imidazol-1-ylmethyl-1H-indole-2-carboxylic acid was prepared from imidazole and 6-methyl-1H-indole-2-carboxylic acid ethyl ester using the procedures described by Peter E Cross, et. al; Journal of Medicinal Chemistry 1986, 29(9), 1637-43.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 6-methyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=CC=C2C1)C | C12H13NO2
product | 6-Imidazol-1-ylmethyl-1H-indole-2-carboxylic acid | N1(C=NC=C1)CC1=CC=C2C=C(NC2=C1)C(=O)O | C13H11N3O2
